US06797718B2
N-{2-[2-(4-Amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)ethoxy]ethyl}-4-{[4-(dimethylamino)phenyl]diazenyl}benzenesulfonamide
Using the method of Examples 34-50, 4-dimethylaminoazobenzene-4′-sulfonyl chloride was reacted with 1-[2-(2-aminoethoxy)ethyl]-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine to provide the desired compound. The product was purified using Method A. The observed accurate mass was 551.2551.

reactant | 4-dimethylaminoazobenzene-4′-sulfonyl chloride | CN(C)C1=CC=C(C=C1)N=NC2=CC=C(C=C2)S(=O)(=O)Cl | C14H14ClN3O2S
reactant | 1-[2-(2-aminoethoxy)ethyl]-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine | NCCOCCN1C(=NC=2C(=NC(=C(C21)C)C)N)C | C13H21N5O
product | N-{2-[2-(4-Amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)ethoxy]ethyl}-4-{[4-(dimethylamino)phenyl]diazenyl}benzenesulfonamide | NC1=NC(=C(C2=C1N=C(N2CCOCCNS(=O)(=O)C2=CC=C(C=C2)N=NC2=CC=C(C=C2)N(C)C)C)C)C | C27H34N8O3S
